US06900354B2
3-[4-(3-Fluoro-benzyloxy)-phenyl]-propynoic acid methylamide
The title compound is prepared in analogy to example 5 d), starting from [4-(3-fluoro-benzyloxy)-phenyl]-propynoic acid and aqueous methylamine. Colorless solid. Yield=45%. MS: m/e=284.1 (M++H).

reactant | [4-(3-fluoro-benzyloxy)-phenyl]-propynoic acid | FC=1C=C(COC2=CC=C(C=C2)C#CC(=O)O)C=CC1 | C16H11FO3
reactant | methylamine | CN | CH5N
product | 3-[4-(3-Fluoro-benzyloxy)-phenyl]-propynoic acid methylamide | Yield=45% | CNC(C#CC1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O | C17H14FNO2
